US07601716B2
4-(2,5-Difluorobenzyl)-1,2,3,4-tetrahydro-[1,8]naphthyridine
7-Bromo-4-[1-(2,5-difluorophenyl)methylidene]-1,2,3,4-tetrahydro-[1,8]naphthyridine (200 mg) was dissolved in methanol (20 mL) and Pd/C (20 mg) was added. The reaction was hydrogenated at atmospheric pressure for 1.5 hours, filtered through Celite, and then concentrated under reduced pressure to give the title compound as a clear colorless oil (near quantitative yield). LCMS: m/z=261.11 (M+H+), 1H-NMR (MeOH-d4, 400 MHz) δ 1.68-1.86 (m, 2H), 2.80 (dd, J=9.0 and 13.3, 1H), 2.96 (dd, J=10.0 and 13.3 Hz, 1H), 3.02-3.12 (m, 1H), 3.34-3.41 (m, 1H), 3.46-3.55 (m, 1H), 6.44 (dd, J=5.2 and 7.2 Hz, 1H), 6.93-7.03 (m, 2H), 7.03-7.11 (m, 2H), 7.72 (dd, J=1.0 and 5.0 Hz, 1H).

reactant | 7-Bromo-4-[1-(2,5-difluorophenyl)methylidene]-1,2,3,4-tetrahydro-[1,8]naphthyridine | 200 mg | BrC1=CC=C2C(CCNC2=N1)=CC1=C(C=CC(=C1)F)F | C15H11BrF2N2
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | 4-(2,5-Difluorobenzyl)-1,2,3,4-tetrahydro-[1,8]naphthyridine | quantitative yield | FC1=C(CC2CCNC3=NC=CC=C23)C=C(C=C1)F | C15H14F2N2
